US07432256B2
a) 5-Methoxy-2-(4-methyl-imidazol-1-yl)-benzonitrile
In analogy to example 5a, 2-fluoro-5-methoxy-benzonitrile was reacted with 4-methylimidazole and potassium carbonate for 48 h at 100° C. After aqueous workup and crystallization from Ethyl acetate/diisopropylether the title compound was obtained as a white solid (yield: 72%). MS: m/e=214.1 [M+H]+.

reactant | 2-fluoro-5-methoxy-benzonitrile | FC1=C(C#N)C=C(C=C1)OC | C8H6FNO
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 5-Methoxy-2-(4-methyl-imidazol-1-yl)-benzonitrile | yield: 72% | COC=1C=CC(=C(C#N)C1)N1C=NC(=C1)C | C12H11N3O
